Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Bactrim DS / gabapentin
 
Attending: ___.
 
Chief Complaint:
malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ h/o chronic back pain presents with generalized 
malaise,
nonbloody diarrhea, and nonbloody vomiting for the past week. He
does not have good PO intake at baseline only eating a piece of
fruit in the morning due to poor appetite, which has been 
ongoing
for sometime.  When asked directly he thinks this could be due 
to
EtOH use. Despite this he denies weight loss.  He denies sick
contacts.  

Patient admits to drinking ___ drinks of vodka per day.  He
denies symptoms of withdrawal in the past but his husband notes
that if he stops drinking for 1 day he becomes tremulous. 
Patient denies his EtOH but his partner seems to indicate
otherwise. 

ROS: as above otherwise 10point ROS negative 

 
Past Medical History:
-HTN: previously on lisinopril, which was stopped due to low
blood pressure.  He remains on Lasix that he tells me is for
pedal edema (no history of heart failure)
-melanoma lower back s/p resection many years ago
-ORIF ankle
-GERD
-h/o polyps with GI bleed: last colonoscopy ___ year ago
-chronic back pain s/p laminectomy/discectomy.  PCP stopped
morphine ___ few months ago replacing it with tramadol. 
 
Social History:
___
Family History:
-Mother: died from MDS ___ progression)
-Father: heart failure 
 
Physical Exam:
ADMISSION

PHYSICAL EXAM:
-VS: reviewed, tachycardic and hypertensive  
-General Appearance: pleasant, diffuse tremors 
-Eyes: PERLL, EOMI, no conjuctival injection, anicteric, right
eye discharge 
-HENT: moist mucus membranes, atraumatic, normocephalic
-Respiratory: clear b/l, no wheeze 
-Cardiovascular: RRR, no murmur
-Gastrointestinal: nontender, nondistended, bowel sounds present
-GU: no foley, no CVA/suprapubic tenderness 
-Musculoskeletal: no pedal edema, no joint swelling 
-Skin: no rash, ulceration, or jaundice noted
-Neuro: no focal neurological deficits, CN ___ grossly intact
-Psychiatric: appropriate mood and affect 
 
Pertinent Results:
ADMISSION
___ 02:17PM BLOOD WBC-4.3 RBC-3.75* Hgb-13.8 Hct-40.1 
MCV-107* MCH-36.8* MCHC-34.4 RDW-15.4 RDWSD-61.1* Plt ___
___ 02:17PM BLOOD Glucose-86 UreaN-5* Creat-1.4* Na-142 
K-3.0* Cl-91* HCO3-29 AnGap-22*
___ 02:17PM BLOOD Calcium-9.4 Phos-2.2* Mg-1.3*
___ 02:17PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:24PM BLOOD Lactate-5.2* K-2.9*

DISCHARGE
___ 07:36AM BLOOD WBC-4.1 RBC-2.79* Hgb-10.4* Hct-31.7* 
MCV-114* MCH-37.3* MCHC-32.8 RDW-15.7* RDWSD-66.4* Plt ___
___ 07:36AM BLOOD Glucose-101* UreaN-12 Creat-1.0 Na-140 
K-3.7 Cl-97 HCO3-32 AnGap-11
___ 07:36AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.0

 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
hypertension, GERD, chronic back pain, CKD 3, alcohol abuse 
admitted ___ with diarrhea and alcohol withdrawal, 
treated with valium CIWA, course notable for diagnosis of Cdiff 
colitis, status post initiation of PO vancomycin with clinical 
improvement, course otherwise notable for several electrolyte 
deficiencies requiring repletion, able to be discharged home 
with services on PO vancomycin

# Alcohol abuse with alcohol withdrawal
While in the emergency department patient began to withdraw from 
alcohol, with tachycardia, tremors, sweats, anxiety.  He was 
admitted and started on a CIWA protocol with valium.  Within his 
first 24 hours he required > 100mg valium with subsequent 
improvement in symptom control over the following 48 hours.  He 
was given thiamine, folate and a multivitamin.  He was seen by 
social work and expressed an interest in attending AA and 
quitting.  Remainder of hospital course notable as below.

# Cdiff Colitis 
Patient initially presented reported diarrhea and emesis.  His 
symptoms initially were felt to be consistent with a viral 
enteritis, and at first improved with conservative management.  
However on hospital day 3 his diarrhea worsened, prompting 
checking of a Cdiff PCR, which was positive.  Patient was 
started on PO vancomycin with subsequent improvement in 
diarrheal symptoms.  Discharged to complete 14 day total course, 
last day = ___. 

# Hypomagnesemia
# Hypophosphatemia
# Hypokalemia
Patient was noted to have severe electrolyte deficiencies, 
requiring several rounds of repletion.  Depletion was felt to be 
related to his chronic alcohol use. 

Type B lactic acidosis
Presented with lactate > 5 without signs of acute serious 
infection or tissue hypoperfusion.  Resolved with IV fluids.  
Felt to be type B lactic acidosis.

# Hematuria
This admission, patient's UA was notable for microscopic 
hematuria.  Would consider rechecking as outpatient and consider 
additional workup. 

# Tobacco abuse
Counseled on cessation.  Used nicotine patch during inpatient 
stay.

# Chronic pain
# Depression
Continued home duloxetine, trazodone

# Abnormal outpatient labs
Prior to presenting to emergency department, patient went to 
___ outpatient lab for outpatient lab drawn.  Results returned 
during this admission, including FSH, LH, estradiol, 
testosterone.  See attached laboratory values.  Defer to 
outpatient ordering provider regarding management. 

Transitional Issues
- Discharged home with services
- Patient contemplating quitting drinking alcohol; was seen by 
social work and was willing to attend AA; 
- Last day PO vancomycin = ___
- Noted to have microscopic hematuria this admission; would 
consider recheck and additional workup if indicated 

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 200 mg PO QHS 
2. Torsemide ___ mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY:PRN constipation 
4. Ferrous Sulfate 325 mg PO BID 
5. DULoxetine 60 mg oral DAILY 
6. Cyanocobalamin 100 mcg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO Q6H 
last day ___ 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*52 Capsule Refills:*0 
2.  Cyanocobalamin 100 mcg PO DAILY  
3.  Docusate Sodium 100 mg PO DAILY:PRN constipation  
4.  DULoxetine 60 mg oral DAILY  
5.  Ferrous Sulfate 325 mg PO BID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Thiamine 100 mg PO DAILY  
9.  Torsemide ___ mg PO DAILY  
10.  TraZODone 200 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Cdiff Colitis 
# Alcohol abuse and withdrawal
# Hematuria
# Tobacco abuse
# Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you.  You were admitted with 
diarrhea and signs of alcohol withdrawal.  

You were treated for your alcohol withdrawal and improved over 
several days.  You were noted to have low electrolytes 
(potassium, magnesium, phosphate), also likely caused by 
alcohol.  We gave you back these electrolytes and they are now 
normal.  

For your diarrhea, you underwent testing that showed you have an 
infection called C difficile Colitis, a type of bacteria that 
causes diarrhea.  You were treated with antibiotics and 
improved.  

You are now ready for discharge.

Of note, during this admission you were found to have blood in 
your urine.  We have notified your primary care doctor about 
this.  Please discuss it with them at your next visit. 
 
Followup Instructions:
___